# test "basic" formatting
v1 1 0 1
v2 2 0 10k
v3 3 0 1e30
v4 4 0 .001
r4 4 0 10000k
v5 5 0 1n
r5 5 0 10000k
.print op v(nodes) i(r4) i(r5) v(1)
.op
.op basic
.list
.status notime
.end
